US07388015B2
[4-(2-Ethylamino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine [44]
3-Dimethylamino-1-(2-ethylamino-4-methyl-thiazol-5-yl)-propenone was prepared by reaction between 1-(2-ethylamino-4-methyl-thiazol-5-yl)-ethanone and 3-chloro-pentane-2,4-dione. It was then condensed with N-(3-nitro-phenyl)-guanidine nitrate in the usual manner to afford the title compound. Yellow solid; 1H-NMR (DMSO-d6) δ: 1.14 (m, 3H, CH3), 2.47 (s, 3H, CH3), 3.23 (m, 2H, CH2), 6.99 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 7.55 (m, 1H, Ph-H), 7.77 (m, 1H, Ph-H), 8.02 (m, 1H, Ph-H), 8.39 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 8.47 (s, 1H, Ph-H), 9.98 (br. s, 1H, NH).

reactant | 1-(2-ethylamino-4-methyl-thiazol-5-yl)-ethanone | C(C)NC=1SC(=C(N1)C)C(C)=O | C8H12N2OS
reactant | 3-chloro-pentane-2,4-dione | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | N-(3-nitro-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
product | [4-(2-Ethylamino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | C(C)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C16H16N6O2S
